US04948781
20 g of 4-methyl-3-decen-5-ol dissolved in 100 ml of toluene are added dropwise at 80° C. over a period of 30 minutes to 6.2 g of a 55-60% sodium hydride dispersion in 100 ml of toluene. The mixture is stirred at 80° C. for 12 hours, then cooled to 50° C. and treated dropwise with a solution of 24.1 g of n-butyl bromide in 50 ml of toluene. The mixture is subsequently held at reflux temperature for 6 hours. For the working-up, the mixture is treated at room temperature with water, the organic layer is separated and washed neutral with water, dried and, after the addition of 0.2 g of potassium carbonate, fractionally distilled There are obtained 20.7 g of 5-butoxy-4 methyl-3-decene of boiling point 60° C./0.03 Torr, nD20 =1.4378. Odour: caramel-like, delicate, fatty-fruity.

reactant | 4-methyl-3-decen-5-ol | 20 g | CC(=CCC)C(CCCCC)O | C11H22O
reactant | sodium hydride | [H-].[Na+]
reactant | n-butyl bromide | 24.1 g | C(CCC)Br | C4H9Br
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-butoxy-4 methyl-3-decene | 20.7 g | C(CCC)OC(C(=CCC)C)CCCCC | C15H30O
